US04471116
A solution of 2(S)-glycerol-2,3-acetonide (109 g), obtained from mannitol-1,2:5,6-diacetonide via D-glyceraldehyde acetonide using the method described by LeCocq et al., Biochem., 3, 976 (1964), in 1 L dry dichloromethane was cooled to -35° with stirring. Triethylamine (140 ml) was added followed by the dropwise addition of mesyl chloride (71 ml) over 10 minutes while maintaining the reaction between -35° and -25°. The cooling bath was removed and after 45 minutes, 250 ml 1N hydrochloric acid was added. The layers were separated and the dichloromethane solution was washed in turn with 250 ml portions of water (1×), 1N sodium hydroxide (1×) and water (1×). The aqueous layers were dried over sodium sulfate and evaporated to give 172.1 g of (2R)-3-mesyloxy-1,2-propanediol acetonide as a pale yellow oil.

reactant | D-glyceraldehyde acetonide | [CH2-]C(=O)C.O=C[C@H](O)CO
reactant | Triethylamine | 140 ml | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 71 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | (2R)-3-mesyloxy-1,2-propanediol acetonide | 172.1 g | [CH2-]C(=O)C.S(=O)(=O)(C)OC[C@@H](CO)O | InChI=1S/C4H10O5S.C3H5O/c1-10(7,8)9-3-4(6)2-5;1-3(2)4/h4-6H,2-3H2,1H3;1H2,2H3/q;-1/t4-;/m1./s1
